US06599917B1
b) 2-Benzyl-6-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine
800 mg of oily (60%) sodium hydride was added little by little to a mixture of 5.35 g of 2-benzyl-6-[(3R,4R)-3,4-dihydroxypyrrolidine-1-yl]pyridine and 40 ml of tetrahydrofuran while stirring, followed by stirring as it was for one hour. Then 1.24 ml of methyl iodide was added thereto, followed by stirring as it was overnight. The mixture was extracted with ethyl acetate-water, and the organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was subjected to silica gel column chromatography and eluted with 30% ethyl acetate/hexane, to give 2.18 g of the target compound.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-benzyl-6-[(3R,4R)-3,4-dihydroxypyrrolidine-1-yl]pyridine | 5.35 g | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]([C@@H](C1)O)O | C16H18N2O2
reactant | methyl iodide | 1.24 ml | CI | CH3I
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-Benzyl-6-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine | 2.18 g | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]([C@@H](C1)OC)O | C17H20N2O2
